US04845113
A solution of ethyl 3-(2-phenyl-1-cyclopropyl)-2-(m-nitrophenylmethylen)-3-oxo-propanoate (5 g) and ethyl-3-aminocrotonate (1.6 g) in EtOH (50 ml) is heated to the reflux temperature for 4 hours, then it is cooled at 0° C., acidified with concentrated aqueous HCl (0.2 ml) and stirred at 0° C. for 30 minutes. After neutralization with a few drops of a saturated Na2HPO4 water solution, the mixture is evaporated and the residue is dissolved in AcOEt (60 ml), washed with water (3×10 ml), dried on Na2SO4 and purified on silica gel (200 g, eluent: diisopropylether/Et ether/Et2O 80/20) to give 4.0 g of 2-(2-phenyl-1-cyclopropyl)-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine amorphous solid.

reactant | ethyl 3-(2-phenyl-1-cyclopropyl)-2-(m-nitrophenylmethylen)-3-oxo-propanoate | 5 g | C1(=CC=CC=C1)C1C(C1)C(C(C(=O)OCC)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C21H19NO5
reactant | ethyl-3-aminocrotonate | 1.6 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
reactant | HCl | 0.2 ml | Cl | ClH
solvent | EtOH | 50 ml | CCO | C2H6O
product | 2-(2-phenyl-1-cyclopropyl)-3,5-dicarboethoxy-4-(m-nitrophenyl)-6-methyl-1,4-dihydropyridine | 4.0 g | C1(=CC=CC=C1)C1C(C1)C=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C27H28N2O6
